US04000154
cis-2-Hydroxymethyl-4-oxo-3-phenoxyacetylaminoazetidine
To a solution of 13.5 g (0.049 mole) of methyl cis-4-oxo-3-phenoxyacetylaminoazetidine-2-carboxylate in 975 ml of tetrahydrofuran and 100 ml of water at 0° (ice bath) was added a cold solution of 3.75 g (0.099 mole) of sodium borohydride in 250 ml of water over a period of 10 min. The solution was stirred at 0° for 40 min and then glacial acetic acid was added dropwise until hydrogen evolution ceased. Solid sodium bicarbonate and sodium chloride were added and this mixture was extracted five times with 250 ml portions of ethyl acetate. After drying the combined extracts (MgSO4), the solvent was removed in vacuo. The resulting residue was dissolved in ethyl acetate, clarified with Norite and allowed to crystallize to give the title compound; tlc: ethyl acetate, silica gel GF, Rf = 0.10; mp 153°-154 ° (ethyl acetate).

reactant | methyl cis-4-oxo-3-phenoxyacetylaminoazetidine-2-carboxylate | 0.049 mole, 13.5 g | O=C1[C@@H]([C@@H](N1)C(=O)OC)NC(COC1=CC=CC=C1)=O | C13H14N2O5
reactant | sodium borohydride | 0.099 mole, 3.75 g | [BH4-].[Na+]
reactant | hydrogen | [H][H] | H2
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
reactant | sodium chloride | [Cl-].[Na+]
solvent | tetrahydrofuran | 975 ml | O1CCCC1 | C4H8O
solvent | water | 100 ml | O | H2O
solvent | water | 250 ml | O | H2O
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | cis-2-Hydroxymethyl-4-oxo-3-phenoxyacetylaminoazetidine | OC[C@@H]1NC([C@@H]1NC(COC1=CC=CC=C1)=O)=O | C12H14N2O4
